US08802697B2
Synthesis of ethyl 4-hydroxy-5-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate
To a solution of diethyl 2-methyl-3-oxopentanedioate (10 g, 46.25 mmol) in 1,1′-trioxidanediyldipropan-1-one (400 mL) was added triethoxymethane (38 mL, 231.25 mmol), and the mixture was heated at 120° C. for 4 h, followed by the addition of 30% ammonia (600 mL) at 0° C. The reaction mixture was stirred at RT for another 2 h. LCMS monitored the reaction was completed. The precipitate was collected via filtration and dissolved in dichloromethane (400 mL). The solid was filtered off, and the filtrate was concentrated to get the title compound (5.5 g, crude) as a yellow solid. MS (ES+) C9H11NO4 requires: 197. found: 198 [M+H]+.

reactant | diethyl 2-methyl-3-oxopentanedioate | 46.25 mmol, 10 g | CC(C(=O)OCC)C(CC(=O)OCC)=O | C10H16O5
reactant | triethoxymethane | 231.25 mmol, 38 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | ammonia | 600 mL | N | H3N
solvent | 1,1′-trioxidanediyldipropan-1-one | 400 mL | O(OOC(CC)=O)C(CC)=O | C6H10O5
product | ethyl 4-hydroxy-5-methyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 5.5 g | OC=1C(=CNC(C1C)=O)C(=O)OCC | C9H11NO4
